US09024041B2
N-(4-(4-(3-(3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)naphthalen-1-yl thio)pyridin-2-yl)-2-methoxyacetamide
To a solution of 1-(4-(2-aminopyridin-4-ylthio)naphthalen-1-yl)-3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)urea (44 mg, 0.084 mmol) and DIPEA (52 μL, 0.30 mmol) in DCM (2.0 mL) was added a solution of 2-methoxyacetyl chloride (19 μL, 0.21 mmol) in DCM (0.5 mL) over 5 min. The reaction mixture was kept at RT for 30 min and a solution of NH3 (1% in MeOH, 1.0 mL) was added. The mixture was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, 12 g, EtOAc in isohexane, 30-80%, gradient elution) to afford the title compound, Example 21, as a white solid (36 mg, 70%). Rt 2.76 min (Method 2); m/z 595 (M+H)+ (ES+); 1H NMR (400 MHz, DMSO-d6) δ: 1.28 (9H, s), 2.39 (3H, s), 3.28 (3H, s), 3.95 (2H, s), 6.44 (1H, s), 6.56 (1H, dd), 7.37 (2H, d), 7.47 (2H, d), 7.65 (2H, m), 7.75 (1H, s), 7.93 (1H, d), 8.02 (1H, d), 8.17-8.23 (3H, overlapping m), 8.97 (1H, s), 9.37 (1H, s), 9.90 (1H, s).

reactant | 1-(4-(2-aminopyridin-4-ylthio)naphthalen-1-yl)-3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)urea | 0.084 mmol, 44 mg | NC1=NC=CC(=C1)SC1=CC=C(C2=CC=CC=C12)NC(=O)NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C | C30H30N6OS
reactant | DIPEA | 0.30 mmol, 52 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methoxyacetyl chloride | 0.21 mmol, 19 μL | COCC(=O)Cl | C3H5ClO2
reactant | NH3 | 1.0 mL | N | H3N
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(4-(3-(3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)naphthalen-1-yl thio)pyridin-2-yl)-2-methoxyacetamide | C(C)(C)(C)C1=NN(C(=C1)NC(NC1=CC=C(C2=CC=CC=C12)SC1=CC(=NC=C1)NC(COC)=O)=O)C1=CC=C(C=C1)C | C33H34N6O3S
